US07109354B2
b) N-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-succinamic acid
N-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-succinamic acid ethyl ester (Example 133: step a) and LiOH were dissolved into MeOH and stirred at RT for 2 hours. The solvents were removed in vacuo yielding the title compound that was used with out further purification or characterization.

reactant | N-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-succinamic acid ethyl ester | C(C)OC(CCC(=O)NC1=C(C(=CC=C1)C)C1=CC(=CC=C1)S(=O)(=O)C1=C(SC(=C1)C(=N)NC(=O)OC(C)(C)C)SC)=O | C30H35N3O7S3
reactant | LiOH | [Li+].[OH-]
solvent | MeOH | CO | CH4O
product | N-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-succinamic acid | C(C)(C)(C)OC(=O)NC(C1=CC(=C(S1)SC)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)NC(CCC(=O)O)=O)=N | C28H31N3O7S3
